parameters vinp=0.3
// Generated for: spectre
// Generated on: Aug 22 21:26:48 2017
// Design library name: newUMC18
// Design cell name: ChargePump
// Design view name: schematic
simulator lang=spectre
global 0
parameters //vinp
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_bjt_v121.lib.scs" section=tt_bip
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_mimcap_v101.lib.scs" section=mimcaps_typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_reg18bpw_v123.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_reg33bpw_v123.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_res_v141.lib.scs" section=res_typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_lvt18_v113.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_lvt33_v113.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_reg18_v124.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_reg33_v114.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_zvt18_v121.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_zvt33_v113.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/core_rf_v2d4.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/io_rf_v2d3.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/l_slcr20k_rf_v2d3.lib.scs" section=typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mimcapm_rf_v2d3.lib.scs" section=typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/pad_rf_v2d3.lib.scs" section=typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/rnhr_rf_v2d4.lib.scs" section=typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/rnnpo_rf_v2d4.lib.scs" section=typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/rnppo_rf_v2d4.lib.scs" section=typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/vardiop_rf_v2d3.lib.scs" section=typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/varmis_18_rf_v2d3.lib.scs" section=typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_diode_v113.mdl.scs"

// Library name: myUMC18
// Cell name: Cdiode
// View name: schematic
subckt Cdiode VD VF VLG VS VSG
    M2 (VSG VF VSG VSG) p_18_mm w=8.8u l=4.4u nf=1 mis_flag=1 ad=4.312e-12 \
        as=4.312e-12 pd=18.58u ps=18.58u m=(1)*(1) mf=(1)*(1)
    M1 (VLG VF VLG VLG) p_18_mm w=20u l=25.0u nf=1 mis_flag=1 ad=9.8e-12 \
        as=9.8e-12 pd=40.98u ps=40.98u m=(1)*(1) mf=(1)*(1)
    M0 (VD VF VD VD) p_18_mm w=12.5u l=8u nf=1 mis_flag=1 ad=6.125e-12 \
        as=6.125e-12 pd=25.98u ps=25.98u m=(1)*(1) mf=(1)*(1)
    M14 (VD VF VS VD) n_bpw_18_mm w=3u l=360.0n ad=1.03e-12 as=1.03e-12 \
        pd=4.686667u ps=4.686667u m=(3)*(1)
ends Cdiode
// End of subcircuit definition.

// Library name: newUMC18
// Cell name: ChargePump
// View name: schematic
C0 (0 VOUT) mimcaps_mm w=45.0u l=45.0u m=1
C1 (VIN\+ VM) mimcaps_mm w=45.0u l=45.0u m=1
V0 (VIN\+ 0) vsource type=sine ampl=vinp freq=1G
I6 (VM VF1 VLG\<1\> VOUT VSG\<1\>) Cdiode
I7 (0 VF0 VLG\<0\> VM VSG\<0\>) Cdiode
ic VF0=0.3 VF1=0.3 
simulatorOptions options reltol=1e-3 vabstol=1e-5 iabstol=1e-11 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
//tran tran stop=20n errpreset=conservative write="spectre.ic" \
//    writefinal="spectre.fc" annotate=status maxiters=5 
//finalTimeOP info what=oppoint where=rawfile
//modelParameter info what=models where=rawfile
//element info what=inst where=rawfile
//outputParameter info what=output where=rawfile
//designParamVals info what=parameters where=rawfile
//primitives info what=primitives where=rawfile
//subckts info what=subckts  where=rawfile
//save VIN\+ VM VOUT 
//saveOptions options save=allpub
ic VF1=0.6 VF0=0.65 
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=1e-08 write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
