
parameters r0=1000 vd=3
// Generated for: spectre
// Generated on: Aug 21 21:51:21 2017
// Design library name: newUMC18
// Design cell name: resDivier
// Design view name: schematic
simulator lang=spectre
global 0
parameters //r0 vd
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_bjt_v121.lib.scs" section=tt_bip
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_mimcap_v101.lib.scs" section=mimcaps_typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_reg18bpw_v123.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_reg33bpw_v123.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_res_v141.lib.scs" section=res_typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_lvt18_v113.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_lvt33_v113.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_reg18_v124.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_reg33_v114.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_zvt18_v121.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_zvt33_v113.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/core_rf_v2d4.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/io_rf_v2d3.lib.scs" section=tt
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/l_slcr20k_rf_v2d3.lib.scs" section=typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mimcapm_rf_v2d3.lib.scs" section=typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/pad_rf_v2d3.lib.scs" section=typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/rnhr_rf_v2d4.lib.scs" section=typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/rnnpo_rf_v2d4.lib.scs" section=typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/rnppo_rf_v2d4.lib.scs" section=typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/vardiop_rf_v2d3.lib.scs" section=typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/varmis_18_rf_v2d3.lib.scs" section=typ
include "/research/KAN/UM18/oa/UMC_18_CMOS/../Models/Spectre/mm180_diode_v113.mdl.scs"

// Library name: newUMC18
// Cell name: resDivier
// View name: schematic
R1 (vout 0) resistor r=1K
R0 (vin vout) resistor r=r0
V0 (vin 0) vsource dc=vd type=dc

//simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
//    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
//    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
//    checklimitdest=psf 
//modelParameter info what=models where=rawfile
//element info what=inst where=rawfile
//outputParameter info what=output where=rawfile
//designParamVals info what=parameters where=rawfile
//primitives info what=primitives where=rawfile
//subckts info what=subckts  where=rawfile
//saveOptions options save=allpub
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="results/psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
